US08207174B2
1-(3-(hydroxymethyl)phenoxy)-3-(1-(5-methylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-ylamino)propan-2-ol
Synthesis followed SP6 (iPrOH:DMSO 1:1, 30 h at 80° C. and 20 h at 100° C.), using 220 μmol (3-(oxiran-2-ylmethoxy)phenyl)methanol and 1-(5-methylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-amine to give the title compound with 26% yield upon purification by prep. HPLC (reversed phase) and subsequent by prep. TLC (1 mm silica gel, PE/CH2Cl2/MeOH 4:6:1).

reactant | (3-(oxiran-2-ylmethoxy)phenyl)methanol | 220 μmol | O1C(C1)COC=1C=C(C=CC1)CO | C10H12O3
reactant | 1-(5-methylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-amine | CC1=CSC=2N=CN=C(C21)N2CCC(CC2)N | C12H16N4S
solvent | iPrOH DMSO | CC(C)O.CS(=O)C
product | 1-(3-(hydroxymethyl)phenoxy)-3-(1-(5-methylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-ylamino)propan-2-ol | 26% yield | OCC=1C=C(OCC(CNC2CCN(CC2)C=2C3=C(N=CN2)SC=C3C)O)C=CC1 | C22H28N4O3S
